US06495541B1
2-iodo-3-nitro-benzoic acid methyl ester (0.79 g, 2.84 mmol), 1-chloro-4-ethynylbenzene (0.41 g, 2.99 mmol), palladium tetrakis(triphenylphosphine) (0.16 g, 0.14 mmol), copper (I) iodide (0.03 g, 0.14 mmol), and triethylamine (1.44 g, 14.19 mmol) were dissolved in 15 mL toluene. Argon was bubbled through the resulting solution for 15 min. The reaction was stirred under argon at 80° C. for 2 h and 20 min. The reaction mixture was then washed once with water, dried (MgSO4), and concentrated in vacuo. The orange oil was purified by flash chromatography eluting with 50 to 100% CHCl3/hexanes to yield 3-amino-2-(4-chloro-phenylethynyl)-benzoic acid methyl ester, 0.76 g (94%) as a yellow oil. 1H NMR (300 MHz, d6-DMSO) 3.84 (s,3H), 5.84 (br s, 2H), 6.97 (dd, J=8.1, 1.3 Hz, 1H), 7.05 (dd, J=7.5, 1.2 Hz, 1H), 7.17 (app t, J=7.5 Hz, 1H), 7.49 (d, J=8.7 Hz, 2H), 7.63 (d, J=8.7 Hz, 2H). MS (electrospray, MH+) 286.

reactant | 2-iodo-3-nitro-benzoic acid methyl ester | 2.84 mmol, 0.79 g | COC(C1=C(C(=CC=C1)[N+](=O)[O-])I)=O | C8H6INO4
reactant | 1-chloro-4-ethynylbenzene | 2.99 mmol, 0.41 g | ClC1=CC=C(C=C1)C#C | C8H5Cl
reactant | triethylamine | 14.19 mmol, 1.44 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium tetrakis(triphenylphosphine) | 0.14 mmol, 0.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
catalyst | copper (I) iodide | 0.14 mmol, 0.03 g | [Cu]I
product | 3-amino-2-(4-chloro-phenylethynyl)-benzoic acid methyl ester | COC(C1=C(C(=CC=C1)N)C#CC1=CC=C(C=C1)Cl)=O | C16H12ClNO2
